US07943652B2
To a stirred solution of (E)-3-((S)-4-pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester hydrochloride (0.3 g, 1.12 mmol) in N,N-dimethylformamide (20 mL) was added sequentially triethylamine (0.5 mL, 3.58 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.24 g, 1.25 mmol), 1-hydroxybenzotriazole (0.17 g, 1.25 mmol) and 2-methylindole-3-acetic acid (0.235 g, 1.24 mmol). The reaction was stirred for 16 h and diluted with dichloromethane, and the solution was washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography (2% methanol in dichloromethane) to obtain (E)-3-(4-{(S)-1-[2-(2-methyl-1H-indol-3-yl)-acetyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester as a colorless oil (0.42 g, 1.03 mmol, 93% yield).

reactant | (E)-3-((S)-4-pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester hydrochloride | 1.12 mmol, 0.3 g | Cl.COC(\C=C\C1=CC=C(C=C1)[C@H]1NCCC1)=O
reactant | triethylamine | 3.58 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.25 mmol, 0.24 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.25 mmol, 0.17 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-methylindole-3-acetic acid | 1.24 mmol, 0.235 g | CC=1NC2=CC=CC=C2C1CC(=O)O | C11H11NO2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (E)-3-(4-{(S)-1-[2-(2-methyl-1H-indol-3-yl)-acetyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester | 1.03 mmol, 0.42 g, 93% yield | COC(\C=C\C1=CC=C(C=C1)[C@H]1N(CCC1)C(CC1=C(NC2=CC=CC=C12)C)=O)=O | C25H26N2O3
